US06677349B1
Using the general method of Example 242, 1-(3-aminopropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (1.53 g, 5.11 mmol) was reacted with methanesulfonyl chloride to provide 800 mg of N-{3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}methanesulfonamide as light yellow needles, m.p. 193-194° C. Analysis: Calculated for C17H23N5O3S: %C, 54.09; %H, 6.14; %N, 18.55; Found: %C, 54.09; %H, 5.93; %N, 18.49.

reactant | 1-(3-aminopropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 5.11 mmol, 1.53 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C16H21N5O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N-{3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}methanesulfonamide | 800 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNS(=O)(=O)C)CCOC | C17H23N5O3S
